US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-9-fluoro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Heat 7-chloro-6-dimethylcarbamoylthio-9-fluoro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.2 g, 0.5 mmol) in methanol (50 mL) with potassium carbonate (0.28 g, 2 mmol) at reflux for 5 h. Cool the mixture, add dropwise a solution of di-tert-butyl-dicarbonate (0.22 g, 1.0 mmol) in dichloromethane (20 mL) and stir 17 h. Evaporate the mixture onto silica gel and purify by chromatography eluting with hexane/EtOAc (1:0 to 3:2 gradient) to give the title compound (0.12 g, 62%). MS (ES+) m/z: 303 (M+H−Boc)+.

reactant | 7-chloro-6-dimethylcarbamoylthio-9-fluoro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.5 mmol, 0.2 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)SC(N(C)C)=O | C15H15ClF4N2O2S
reactant | potassium carbonate | 2 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl-dicarbonate | 1.0 mmol, 0.22 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-tert-Butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-9-fluoro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.12 g, 62% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2F)Cl)SC(N(C)C)=O | C18H24ClFN2O3S
